US04409214
To a suspension of benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (6.2 g) in methylene chloride (60 ml) were added anisole (9.3 g) and trifluoroacetic acid (24.5 g), and the mixture was stirred at ambient temperature for 1.5 hours. After removal of the solvent, the residue was added dropwise to diisopropyl ether (600 ml), and the precipitated substance was collected by filtration. This substance was suspended in water (50 ml) and then adjusted to pH 7.5 with 2 N aqueous sodium hydroxide, followed by washing twice with a mixture of ethyl acetate (50 ml) and tetrahydrofuran (50 ml). To the resultant aqueous solution were added ethyl acetate (50 ml) and tetrahydrofuran (50 ml), and the mixture was saturated with sodium chloride and adjusted to pH 1.0 with 10% hydrochloric acid. The organic layer was separated, and the remaining aqueous solution was extracted twice with a mixture of ethyl acetate and tetrahydrofuran. The combined organic solution was washed with an aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave a residue, which was pulverized with diethyl ether to obtain 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (3.9 g).

reactant | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 6.2 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C27H24N6O5S2
reactant | anisole | 9.3 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 24.5 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 3.9 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | C14H14N6O5S2
